US04045209
A mixture of 27.4 g of 3,4-dichloroaniline in 140 ml of isopropyl ether was added slowly to 9 g of methyl isocyanate in 100 ml of isopropyl ether and the mixture was refluxed for 2 hours and was then cooled to 0° C. The precipitate formed was recovered by vacuum filtration and was washed with isopropyl ether. The mother liquors were concentrated to obtain a second crop. The two combined crops weighing 19.5 g and melting at 156° C. were crystallized from ethyl acetate to obtain N-methyl-N'-(3,4-dichlorophenyl)-urea melting at 160° C., identical to the product described by Onley et al., J. Ass. Off. Anal. Chem., Vol. 52 (1969), p. 545.

reactant | 3,4-dichloroaniline | 27.4 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | methyl isocyanate | 9 g | CN=C=O | C2H3NO
solvent | isopropyl ether | 140 ml | C(C)(C)OC(C)C | C6H14O
solvent | isopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
product | N-methyl-N'-(3,4-dichlorophenyl)-urea | CNC(=O)NC1=CC(=C(C=C1)Cl)Cl | C8H8Cl2N2O
